US05254595
Following the procedure of Example 27, but starting from 5-(2,3-epoxypropoxy)-1-oxotetralin (20.2 g), prepared as described in BE 739,195, and 2-aminotetralin (14.81 g) in absolute ethanol (130 ml), N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(1-oxo-1,2,3,4-tetrahydronaphth-5-yloxy)propanamine hydrochloride is obtained ((iA), R=H, E and G, taken together form a group --CH2 --CH2 --CH2 --CO--, and the chain is attached to position 2 of the tetralin moiety).

reactant | 5-(2,3-epoxypropoxy)-1-oxotetralin | 20.2 g | O1C(COC2=C3CCCC(C3=CC=C2)=O)C1 | C13H14O3
reactant | N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(1-oxo-1,2,3,4-tetrahydronaphth-5-yloxy)propanamine hydrochloride | Cl.C1C(CCC2=CC=CC=C12)NCC(COC1=C2CCCC(C2=CC=C1)=O)O
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | 2-aminotetralin | 14.81 g | NC1CC2=CC=CC=C2CC1 | C10H13N
